US08008307B2
Step a: 2-(4,6-dichloropyrimidin-5-yl)ethanol
(4,6-dichloropyrimidin-5-yl)acetaldehyde (2.96 g, 15.5 mmol) was dissolved in methanol (60 mL) and cooled at 0° C. Sodium tetrahydroborate (0.879 g, 23.2 mmol) was added and the mixture was stirred for 1 hour. TLC indicated complete conversion. The reaction was quenched with water (20 mL), methanol was removed in vacuo and the residue was extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The residue was purified using chromatography on silica gel using gradient 0 to 100% ethyl acetate in methylene chloride to afford the title compound (1.90 g, 63%). LC/MS: Rt=0.93 min, ES+ 194 (AA standard).

reactant | (4,6-dichloropyrimidin-5-yl)acetaldehyde | 15.5 mmol, 2.96 g | ClC1=NC=NC(=C1CC=O)Cl | C6H4Cl2N2O
reactant | Sodium tetrahydroborate | 23.2 mmol, 0.879 g | [BH4-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | 2-(4,6-dichloropyrimidin-5-yl)ethanol | 1.90 g, 63% | ClC1=NC=NC(=C1CCO)Cl | C6H6Cl2N2O
